US04343813
Trans-N-[1-Methyldecyl]-2-[4-(4-carboxy-2-oxo-pyrrolidino)phenyl]cyclopropanecarboxamide
The title compound was prepared from trans-N-(1-methyldecyl)-2-(4-aminophenyl)cyclopropanecarboxamide and itaconic acid, substantially according to the procedure of Example 10. It was recrystallized from acetic acid to give a 21% yield of material having a melting point of 226°-228° C. The infrared spectrum (KBr disc) showed absorptions at 3280, 2900, 1695 and 1625 cm-1.

reactant | trans-N-(1-methyldecyl)-2-(4-aminophenyl)cyclopropanecarboxamide | CC(CCCCCCCCC)NC(=O)[C@H]1[C@@H](C1)C1=CC=C(C=C1)N | C21H34N2O
reactant | itaconic acid | C(C(=C)CC(=O)O)(=O)O | C5H6O4
product | Trans-N-[1-Methyldecyl]-2-[4-(4-carboxy-2-oxo-pyrrolidino)phenyl]cyclopropanecarboxamide | CC(CCCCCCCCC)NC(=O)[C@H]1[C@@H](C1)C1=CC=C(C=C1)N1C(CC(C1)C(=O)O)=O | C26H38N2O4
